US04339443
Sodium acetylmethylphosphinate O-benzyloxime
Procedure as for Example 37 using C6H5CH2ONH2HCl (4.797 g), sodium hydroxide (1.2037 g) and sodium acetylmethylphosphinate (4.331 g), except that the benzyl ether is less soluble in ethanol than hydroxylamine hydrochloride and was dissolved in 300 ml solvent.

reactant | C6H5CH2ONH2HCl | 4.797 g | C1(=CC=CC=C1)CON.Cl
reactant | sodium hydroxide | 1.2037 g | [OH-].[Na+]
reactant | sodium acetylmethylphosphinate | 4.331 g | C(C)(=O)CP([O-])=O.[Na+]
reactant | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | Sodium acetylmethylphosphinate O-benzyloxime | C(C1=CC=CC=C1)ON=C(C)CP([O-])=O.[Na+] | InChI=1S/C10H14NO3P.Na/c1-9(8-15(12)13)11-14-7-10-5-3-2-4-6-10;/h2-6,15H,7-8H2,1H3,(H,12,13);/q;+1/p-1
